data/oMe_Silver.jsonl
{"reaction_id": "NR-117_1-c1ccc(OC)cc1_2-C(C)(C)C_3-CCCC_4-C(C)C_5-C(c1ccccc1)c2ccccc2","name": "Johnson-Claisen Rearrangement","level": "medium","reactants_smiles": ["C(=C(CCCC)C(C)(C)C)(c1ccc(OC)cc1)C(C(C)C)(C(c1ccccc1)c2ccccc2)O","C(C)(OC)(OC)OC"],"products_smiles": ["C(C(=O)OC)C(C(C)C)(C(c1ccccc1)c2ccccc2)C(CCCC)=C(c1ccc(OC)cc1)C(C)(C)C"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(OC)(OC)[OH+]C","rationale": "Acid protonates the orthoester oxygen, increasing the electrophilicity of the adjacent carbon via inductive withdrawal and making it more susceptible to C–O bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(OC)(OC)","rationale": "Heterolytic cleavage occurs because the protonated oxygen stabilizes the leaving group, generating a carbocation stabilized by adjacent alkoxy groups through resonance donation."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[OH+](C(C(C)C)(C(c1ccccc1)c2ccccc2)C(CCCC)=C(c1ccc(OC)cc1)C(C)(C)C)C(C)(OC)OC","rationale": "The allylic alcohol oxygen attacks the carbocation, favored by the strong electrophilicity of the cation and the nucleophilicity of the alcohol under acidic conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C(C)C)(C(c1ccccc1)c2ccccc2)C(CCCC)=C(c1ccc(OC)cc1)C(C)(C)C)C(C)([OH+]C)OC","rationale": "Proton transfer from the newly bound alcohol oxygen to an adjacent alkoxy group facilitates further activation and rearrangement by generating a better leaving group."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(OC)C)OC(C(C)C)(C(c1ccccc1)c2ccccc2)C(CCCC)=C(c1ccc(OC)cc1)C(C)(C)C","rationale": "Another proton transfer generates the enol ether intermediate, driven by the stability of the conjugated alkene–ether system and relief of positive charge."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(C(=O)OC)C(C(C)C)(C(c1ccccc1)c2ccccc2)C(CCCC)=C(c1ccc(OC)cc1)C(C)(C)C","rationale": "The [3,3]-sigmatropic rearrangement proceeds thermally due to favorable orbital overlap, forming a more stable carbonyl-containing product via conjugation and bond reorganization."}],"description": "Under acidic conditions, the Johnson–Claisen rearrangement proceeds via protonation and activation of the orthoester, generating an electrophilic species that reacts with the allylic alcohol. Subsequent proton transfers set up an enol ether intermediate, which undergoes a [3,3]-sigmatropic rearrangement to yield the γ,δ-unsaturated ester."}
{"reaction_id": "NR-223_1-c1ccc(Cl)cc1_2-C1CC1_3-c1ccc(C(F)(F)F)cc1_4-C1CCCCC1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(C1CC1)(O)C(O)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)"],"products_smiles": ["C(=O)(c1ccc(Cl)cc1)C(C1CC1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(C1CC1)(O)C([OH2+])(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(Cl)cc1)(C1CC1)(O)[C+](c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(Cl)cc1)C(C1CC1)(c1ccc(C(F)(F)F)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
